US04814506
There was added 40 ml of 30 w/v % aqueous solution of trimethylamine to 10.40 g of (R)-3-chloro-1,2-propanediol (optical purity: 100% e.e., chemical purity: 99%). After reacting for 2 hours at room temperature, the reaction mixture was evaporated to dryness to give 15.60 g of (S)-2,3-dihydroxypropyltrimethylammonium chloride as crystals.

reactant | trimethylamine | CN(C)C | C3H9N
reactant | (R)-3-chloro-1,2-propanediol | 10.40 g | ClC[C@@H](CO)O | C3H7ClO2
product | (S)-2,3-dihydroxypropyltrimethylammonium chloride | 15.60 g | [Cl-].O[C@@H](C[N+](C)(C)C)CO | InChI=1S/C6H16NO2.ClH/c1-7(2,3)4-6(9)5-8;/h6,8-9H,4-5H2,1-3H3;1H/q+1;/p-1/t6-;/m0./s1
